US09233098B2
1. Preparation of ethyl 2-[3-[4-(3,4-dichlorobenzamido)benzyl]-2-methyl-1H-indol-1-yl]acetate
In a dry reaction vessel, ethyl 2-[3-(4-aminobenzyl)-2-methyl-1H-indol-1-yl]acetate (1.0 g, 3.11 mmol) was added, and dissolved in 15 mL dichloromethane. Triethylamine (1.3 mL, 9.3 mmol) was added, and in an ice bath a dichloromethane solution dissolving 3,4-dichlorobenzoyl chloride (0.652 g, 3.11 mmol) was added slowly. After completion of dropwise addition, it was reacted in an ice bath for 4 h, and filtered. An aqueous solution of sodium bicarbonate was added, extracted with dichloromethane, rotate evaporated to dryness, chromatographed on a column to obtain a white solid 1.23 g, at a yield of 79.7%.

reactant | ethyl 2-[3-(4-aminobenzyl)-2-methyl-1H-indol-1-yl]acetate | 3.11 mmol, 1.0 g | NC1=CC=C(CC2=C(N(C3=CC=CC=C23)CC(=O)OCC)C)C=C1 | C20H22N2O2
reactant | Triethylamine | 9.3 mmol, 1.3 mL | C(C)N(CC)CC | C6H15N
reactant | 3,4-dichlorobenzoyl chloride | 3.11 mmol, 0.652 g | ClC=1C=C(C(=O)Cl)C=CC1Cl | C7H3Cl3O
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | ethyl 2-[3-[4-(3,4-dichlorobenzamido)benzyl]-2-methyl-1H-indol-1-yl]acetate | 1.23 g, yield of 79.7% | ClC=1C=C(C(=O)NC2=CC=C(CC3=C(N(C4=CC=CC=C34)CC(=O)OCC)C)C=C2)C=CC1Cl | C27H24Cl2N2O3
